US05232945
A. 5-Bromo-2-(4-benzyloxybenzoyl)benzofuran
5-Bromosalicylaldehyde (2.9 g, 14.5 mmol), cesium carbonate (2.5 g, 7.7 mmol) and acetonitrile (40 ml) were combined and heated to reflux for 30 minutes. The mixture was cooled to 0° C. and a solution of 4'-benzyloxy-2-bromoacetophenone (J. Het. Chem., 2, 310 (1965)) (4.7 g, 15 mmol) in acetonitrile (20 ml) was added. The cooling bath was removed, the mixture stirred at room temperature for 2.5 hours and the precipitate collected (4.5 g).

reactant | 5-Bromosalicylaldehyde | 14.5 mmol, 2.9 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | cesium carbonate | 7.7 mmol, 2.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4'-benzyloxy-2-bromoacetophenone | 15 mmol, 4.7 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CBr)=O | C15H13BrO2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 5-Bromo-2-(4-benzyloxybenzoyl)benzofuran | BrC=1C=CC2=C(C=C(O2)C(C2=CC=C(C=C2)OCC2=CC=CC=C2)=O)C1 | C22H15BrO3
